US07223879B2
3-(Methyl-phenyl-amino)-benzoic acid
An oven-dried resealable Schlenk flask was evacuated and backfilled with argon. The flask was charged with Pd2 dba3 (9.2 mg, 0.01 mmol, 2 mol % Pd), Ligand 1 (19 mg, 0.04 mmol, 4 mol %), pulverized KOH (168 mg, 3.0 mmol), and 3-chlorobenzoic acid (156 mg, 1.0 mmol). The flask was evacuated and backfilled with argon (3×) and then capped with a rubber septum. To the flask was added t-BuOH (2.0 mL), N-methyl-aniline (0.163 mL, 1.5 mmol) and t-BuOH (0.5 mL). The septum was replaced with a Teflon screwcap, the flask was sealed, and the mixture was heated to 100° C. with stirring until the starting aryl chloride was consumed by GC analysis (3 h, GC monitoring was conducted by diluting a small aliquot from the reaction with MeOH (1-2 mL), adding 2-3 drops H2SO4 and heating until 0.5 mL liquid was left, filtering through a small pipette silica plug and observing the disappearance of the corresponding methyl ester). The reaction was cooled to room temperature, diluted with 5% aq. NaOH and extracted with Et2O. The aqueous layer was cooled to 0° C. and acidified with HCl (12.0 M) until pH ˜4. The aqueous layer was extracted with Et2O, dried over anh. MgSO4, filtered, and concentrated under reduced pressure to give crude product (233 mg). The product was purified by recrystallizing in hot hexanes/chloroform (5:1) to give a light yellow solid (191 mg, 84%, ≧95% pure).

reactant | KOH | 3.0 mmol, 168 mg | [OH-].[K+]
reactant | 3-chlorobenzoic acid | 1.0 mmol, 156 mg | ClC=1C=C(C(=O)O)C=CC1 | C7H5ClO2
reactant | N-methyl-aniline | 1.5 mmol, 0.163 mL | CNC1=CC=CC=C1 | C7H9N
catalyst | H2SO4 | 2-3 drops | OS(=O)(=O)O | H2O4S
catalyst | Pd2 dba3 | 0.01 mmol, 9.2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1-Bis(4-methylphenyl)-3-methyl-2-butanone | 0.04 mmol, 19 mg | CC1=CC=C(C=C1)C(C(C(C)C)=O)C1=CC=C(C=C1)C | C19H22O
solvent | t-BuOH | 0.5 mL | CC(C)(C)O | C4H10O
solvent | t-BuOH | 2.0 mL | CC(C)(C)O | C4H10O
product | 3-(Methyl-phenyl-amino)-benzoic acid | 233 mg | CN(C=1C=C(C(=O)O)C=CC1)C1=CC=CC=C1 | C14H13NO2
